US06974815B2
4-[[2-(dimethylhydrazono)cyclohexyl]methyl]-benzonitrile (6.1 g) (0.024 mol) and methyl iodide (35 ml) were stirred overnight at RT. The precipitate was filtered, washed twice with ethyl ether, then with EtOH, and finally with pentane. After drying, 2-[2-[(4-cyanophenyl)methyl]-cyclohexylidene]-1,1,1-trimethyl-hydrazinium iodide was obtained as a white solid (7.8 g, mp=175° C.). 1H NMR (CDCl3): 7.55 (2H, d), 7.25 (2H, d), 3.7 (9H, s), 3.3 (1H, m), 3.15 (1H, dd), 2.8-2.5 (3H, m), 2.2-1.4 (6H, m).

reactant | 4-[[2-(dimethylhydrazono)cyclohexyl]methyl]-benzonitrile | 0.024 mol, 6.1 g | CN(N=C1C(CCCC1)CC1=CC=C(C#N)C=C1)C | C16H21N3
reactant | methyl iodide | 35 ml | CI | CH3I
product | 2-[2-[(4-cyanophenyl)methyl]-cyclohexylidene]-1,1,1-trimethyl-hydrazinium iodide | [I-].C(#N)C1=CC=C(C=C1)CC1C(CCCC1)=N[N+](C)(C)C | InChI=1S/C17H24N3.HI/c1-20(2,3)19-17-7-5-4-6-16(17)12-14-8-10-15(13-18)11-9-14;/h8-11,16H,4-7,12H2,1-3H3;1H/q+1;/p-1
